US09062034B2
(b) methyl 1-[(5-chloro-thiophen-2-yl)-carbonylamino]-3,4-dihydroxy-cyclopentane-1-carboxylate
A mixture of 0.76 g (1.84 mmol) methyl 1-[(5-chloro-thiophen-2-yl)-carbonylamino]-3,4-epoxy-cyclopentane-1-carboxylate, 3.0 ml acetic acid and 0.38 g potassium hydrogen sulphate are stirred for 4 h at 40° C. Then the mixture is concentrated by evaporation, dissolved in DMF, acidified with trifluoroacetic acid and purified by preparative HPLC.

reactant | methyl 1-[(5-chloro-thiophen-2-yl)-carbonylamino]-3,4-epoxy-cyclopentane-1-carboxylate | 1.84 mmol, 0.76 g | ClC1=CC=C(S1)C(=O)NC1(CC2C(C1)O2)C(=O)OC | C12H12ClNO4S
reactant | potassium hydrogen sulphate | 0.38 g | S(=O)(=O)(O)[O-].[K+]
solvent | acetic acid | 3.0 ml | C(C)(=O)O | C2H4O2
product | methyl 1-[(5-chloro-thiophen-2-yl)-carbonylamino]-3,4-dihydroxy-cyclopentane-1-carboxylate | ClC1=CC=C(S1)C(=O)NC1(CC(C(C1)O)O)C(=O)OC | C12H14ClNO5S
